US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-[3-(methyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0632 g, 0.215 mmol) and 3-bromopropyl methyl ether (0.0461 g, 0.301 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0826 g, 86.0%). EI-MS m/z 366(M+) Rt (1.55 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.215 mmol, 0.0632 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 3-bromopropyl methyl ether | 0.301 mmol, 0.0461 g | COCCCBr | C4H9BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-[3-(methyloxy)propyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0826 g, 86.0% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCOC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C24H32NO2.BrH/c1-27-20-8-16-25-17-13-23(14-18-25,15-19-25)24(26,21-9-4-2-5-10-21)22-11-6-3-7-12-22;/h2-7,9-12,26H,8,13-20H2,1H3;1H/q+1;/p-1
